US06080754
4-Bromo-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine, prepared in example 75, step 2, was reacted with t-butyllithium and N,N-dimethyl 4-benzyloxybenzamide by the general synthetic principles outlined in example 75, to afford 4-(4-benzyloxybenzoyl)-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine in 14% yield. MS(SP): m/z 485 (M+). 1H--NMR (CDCl3, 200 MHz) δ: 1.48 (t, 3 H); 3.21 (q, 2 H); 3.90 (s, 3 H); 5.17 (s, 2 H); 7.03-7.12 (m,4 H); 7.30-7.50 (m, 5 H); 7.70 (d, 2 H); 7.80-8.01 (m, 5 H); 8.39 (dd, 1 H).

reactant | 4-Bromo-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | BrC=1C=C2C(=C(C3=CC=CC1N23)CC)C2=CC=C(C=C2)OC | C19H16BrNO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | N,N-dimethyl 4-benzyloxybenzamide | CN(C(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C | C16H17NO2
product | 4-(4-benzyloxybenzoyl)-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 14% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C=2C=C3C(=C(C4=CC=CC2N34)CC)C3=CC=C(C=C3)OC)C=C1 | C33H27NO3
